US05968875
α-(Methoxyimino)-N-methyl-2-[[[3-chloro-5-(methoxycarbonyl)-2-pyridinyl]oxy]methyl]-benzeneacetamide (15.8 g, 40.4 mmol), prepared utilizing the general procedure described in Example 37, was dissolved in warm methanol (600 mL) to which was added 0.1 N NaOH (600 mL). The solution was stirred at room temperature overnight, then concentrated in vacuo to remove excess methanol. The remainder was extracted with Et2O (200 mL). The aqueous layer was acidified slightly (pH 5-6) resulting in a white precipitate. After 30 minutes of stirring at room temperature, the solid was collected, washed with water and dried in a vacuum oven to give α-(methoxyimino)-N-methyl-2-[[[3-chloro-5-(carboxy)-2-pyridinyl]oxy]methyl]-benzeneacetamide (14.9 g). M.P. 189-195° C.

reactant | α-(Methoxyimino)-N-methyl-2-[[[3-chloro-5-(methoxycarbonyl)-2-pyridinyl]oxy]methyl]-benzeneacetamide | 40.4 mmol, 15.8 g | CON=C(C(=O)NC)C1=C(C=CC=C1)COC1=NC=C(C=C1Cl)C(=O)OC | C18H18ClN3O5
reactant | NaOH | 0.1 N, 600 mL | [OH-].[Na+]
solvent | methanol | 600 mL | CO | CH4O
product | α-(methoxyimino)-N-methyl-2-[[[3-chloro-5-(carboxy)-2-pyridinyl]oxy]methyl]-benzeneacetamide | 14.9 g | CON=C(C(=O)NC)C1=C(C=CC=C1)COC1=NC=C(C=C1Cl)C(=O)O | C17H16ClN3O5
